US08431713B2
Step L: Preparation of 4-(2-methylpyridin-3-yloxy)-N-(4-(piperidin-4-yl)thiazol-2-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine dihydrochloride:
tert-Butyl 4-(2-(4-(2-methylpyridin-3-yloxy)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate (0.14 g, 0.22 mmol was dissolved in dichloromethane (2 mL) and charged with HCl (2N in diethyl ether, 3 mL). After stirring at ambient temperature for 2 hours, the solution was concentrated and dried under high vacuum to give the title compound (0.10 g, 75% yield) as a white solid.

reactant | tert-Butyl 4-(2-(4-(2-methylpyridin-3-yloxy)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | CC1=NC=CC=C1OC1=CC(=NC=C1SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)C2CCN(CC2)C(=O)OC(C)(C)C | C31H32N6O3S3
reactant | HCl | 2N, 3 mL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(2-methylpyridin-3-yloxy)-N-(4-(piperidin-4-yl)thiazol-2-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine dihydrochloride | 0.10 g, 75% yield | Cl.Cl.CC1=NC=CC=C1OC1=CC(=NC=C1SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)C2CCNCC2 | InChI=1S/C26H24N6OS3.2ClH/c1-16-20(3-2-8-28-16)33-21-13-24(32-26-31-19(15-35-26)17-4-9-27-10-5-17)30-14-23(21)36-22-6-11-29-18-7-12-34-25(18)22;;/h2-3,6-8,11-15,17,27H,4-5,9-10H2,1H3,(H,30,31,32);2*1H
